US06417202B1
3-Acetyl-2,4-dimethyl-5-(4-pyridyl)-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole (Step 3)
To a stirred solution of 3-acetyl-5-bromo-2,4-dimethyl-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole (309 mg, 0.85 mmol) in toluene (5 mL) was added diethyl(4-pyridyl)borane [prepared according to the method of M. Terashima et al., Heterocycles, 1984, 22, 2471] (250 mg, 1.70 mmol), potassium hydroxide (85% purity, 168 mg, 2.55 mmol), and tetrakis(triphenylphosphine)palladium (0) (100 mg, 0.085 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 3 hours. After cooling, volatiles were removed by evaporation. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:1) to give the title product (105 mg, 36% yield).

reactant | 3-acetyl-5-bromo-2,4-dimethyl-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole | 0.85 mmol, 309 mg | C(C)(=O)C1=C(N(C(=C1C)Br)COCC[Si](C)(C)C)C | C14H24BrNO2Si
reactant | diethyl(4-pyridyl)borane | C(C)B(C1=CC=NC=C1)CC | C9H14BN
reactant | potassium hydroxide | 2.55 mmol, 168 mg | [OH-].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.085 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Acetyl-2,4-dimethyl-5-(4-pyridyl)-1-{2-(trimethylsilyl)ethoxymethyl}-1H-pyrrole | 105 mg, 36% yield | C(C)(=O)C1=C(N(C(=C1C)C1=CC=NC=C1)COCC[Si](C)(C)C)C | C19H28N2O2Si
